US07268138B2
Methyl 4-chloro-3-amino-benzoate (22).
To a solution of 4-chloro-3-amino-benzoic acid (10.0 g, 58.3 mmol) in methanol (50 mL) was added acetyl chloride (13.0 mL) dropwise at room temperature. After the addition, the reaction mixture was heated at 70° C. for 3 h and then cooled to room temperature. The solvent was removed under reduced pressure and water (100 mL) was added. The resulting solution was neutralized with NaHCO3 followed by extraction with EtOAc (3×100 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuum to afford a yellow oil (22, 10.5 g, 97%). 1H NMR (DMSO-d6, 300 MHz) δ 7.41 (??d, J=2.1 Hz, 1H), 7.31 (d, J=8.4 Hz, 1H), 7.09 (dd, J=2.1, 8.4 Hz, 1H), 5.66 (br s, 2H), 3.80 (s, 3H).

reactant | 4-chloro-3-amino-benzoic acid | 58.3 mmol, 10.0 g | ClC1=C(C=C(C(=O)O)C=C1)N | C7H6ClNO2
reactant | acetyl chloride | 13.0 mL | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 50 mL | CO | CH4O
product | Methyl 4-chloro-3-amino-benzoate | ClC1=C(C=C(C(=O)OC)C=C1)N | C8H8ClNO2
